US07956064B2
Sodium acetate (410 mg, 5 mmol) and 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride (complexed with dichloromethane) (36 mg, 0.05 mmol) were added to a mixture of ethyl 3-bromo-4-pyridine carboxylate (230 mg, 1.0 mmol) and 2-amino-4-cyanophenylboronic acid hydrochloric acid salt (179 mg, 0.9 mmol). The mixture was connected to an exit bubbler and heated to 120° C. for 18 hours at which time LCMS analysis indicated that the reaction was done based on the disappearance of starting material. After cooling to room temperature, water was added and the dark solids were filtered and washed with dichloromethane to give 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-8-carbonitrile (156 mg) as a gray solid which was sufficiently pure enough for subsequent chemical transformations. LCMS (ESI) 222.4 (M+1)+. 1HNMR (400 MHz, DMSO-d6) 12.2 (1H, s), 9.96 (1H, s), 8.90 (1H, d, 5.1 Hz), 8.77 (1H, d, 8.2 Hz), 8.13 (1H, d, 5.1 Hz), 7.73 (1H, dd 8.2, 1.6 Hz), 7.70 (1H, d, 1.6 Hz).

reactant | Sodium acetate | 5 mmol, 410 mg | C(C)(=O)[O-].[Na+]
reactant | ethyl 3-bromo-4-pyridine carboxylate | 1.0 mmol, 230 mg | BrC=1C=NC=CC1C(=O)OCC | C8H8BrNO2
reactant | 2-amino-4-cyanophenylboronic acid hydrochloric acid salt | 0.9 mmol, 179 mg | Cl.NC1=C(C=CC(=C1)C#N)B(O)O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride | 0.05 mmol, 36 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | O | H2O
product | 5-oxo-5,6-dihydrobenzo[c][2,6]naphthyridine-8-carbonitrile | 156 mg | O=C1NC2=C(C3=CN=CC=C13)C=CC(=C2)C#N | C13H7N3O
